US06013658
Triethyl phosphonoacetate (9.6 ml, 48 mmol ) was added slowly to a suspension of potassium tert-butoxide (5.39 g, 48 mmol) in tetrahydrofuran (140 ml). After 30 min at 20° C. 2-tert-butoxycarbonylamino-2-methylpropanal (5.0 g, 26 mmol) was added. After 2.5 h at 20° C. 1N hydrochloric acid (80 ml) was added slowly. The mixture was extracted with ethyl acetate (120 ml, 2×50 ml) and the combined organic layers were washed with a saturated solution of sodium hydrogencarbonate (100 ml) and dried (magnesium sulfate). The solvent was removed in vacuo and the crude product was chromatographed on silica gel (100 g) with ethyl acetate/heptane 1:4 as eluent to give 5.7 g of (2E)-4-tert-butoxycarbonylamino-4-methylpent-2-enoic acid ethyl ester.

reactant | potassium tert-butoxide | 48 mmol, 5.39 g | CC(C)([O-])C.[K+]
reactant | 2-tert-butoxycarbonylamino-2-methylpropanal | 26 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC(C=O)(C)C | C9H17NO3
reactant | hydrochloric acid | 1N, 80 ml | Cl | ClH
reactant | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | (2E)-4-tert-butoxycarbonylamino-4-methylpent-2-enoic acid ethyl ester | 5.7 g | C(C)OC(\C=C\C(C)(C)NC(=O)OC(C)(C)C)=O | C13H23NO4
